US05541324
PREPARATION 3 2-Chloro-N-(2-hydroxyphenyl)acetamide
To a mixture of 8.90 g (81.5 mmol) of 2-aminophenol and 11.4 ml (81.5 mmol) of triethylamine in 250 ml of ethyl acetate cooled at 0 ° C. were added over several minutes 6.5 ml (81.5 mmol) of chloroacetyl chloride. The reaction mixture was stirred at 0 ° C. for 100 min and then washed with saline, aqueous sodium bicarbonate, and saline. The organic layers were dried over magnesium sulfate and concentrated. Dichloromethane was added to the residue and the resulted solid collected and dried to give the title compound, mp 133°-134°; NMR (CDCl3) 4.27, 6.93, 7.02, 7.17, 7.25, 7.80 and 8.53 δ.

reactant | 2-aminophenol | 81.5 mmol, 8.90 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | triethylamine | 81.5 mmol, 11.4 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 81.5 mmol, 6.5 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-N-(2-hydroxyphenyl)acetamide | ClCC(=O)NC1=C(C=CC=C1)O | C8H8ClNO2
